US08633189B2
A mixture of 5-amino-2-tert-butyl-phenol (300 mg, 1.82 mmol), isobenzofuran-1,3-dione (283 mg, 1.91 mmol), triethylamine (759 μL, 5.45 mmol) in toluene (5.0 mL) was stirred at 110° C. for 13 h. The reaction mixture was cooled, diluted with ethyl acetate (15 mL), and washed with 10% aqueous NaHCO3(10 mL) and water. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to provide 2-(4-tert-butyl-3-hydroxyphenyl)isoindoline-1,3-dione (450 mg, 84% yield) as a light brown solid which was used for next reaction without further purification. 1H NMR (400.0 MHz, DMSO-d6) δ 9.72 (s, 1H), 7.96 (m, 2H), 7.90 (m, 2H), 7.25 (d, J=8.3 Hz, 1H), 6.85 (d, J=2.0 Hz, 1H), 6.79 (dd, J=2.1, 8.3 Hz, 1H), 1.38 (s, 9H).

reactant | 5-amino-2-tert-butyl-phenol | 1.82 mmol, 300 mg | NC=1C=CC(=C(C1)O)C(C)(C)C | C10H15NO
reactant | isobenzofuran-1,3-dione | 1.91 mmol, 283 mg | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
reactant | triethylamine | 5.45 mmol, 759 μL | C(C)N(CC)CC | C6H15N
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-tert-butyl-3-hydroxyphenyl)isoindoline-1,3-dione | 450 mg, 84% yield | C(C)(C)(C)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)O | C18H17NO3
